US05854261
Ethanol (150 ml) was added to a solution of hydroxylamine hydrochloride (17.25 g) in water (48 ml). Ethyl 4-cyano-1-piperidinecarboxylate (45 g) was added and the mixture was cooled. Sodium methoxide (44.4 g) was added dropwise at RT and the reaction mixture was stirred for 30 minutes at 60° C. The reaction mixture was cooled, filtered and the filtrate evaporated. The residue was purified by column chromatography on silica gel (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and the solvent evaporated, yielding 25 g (40%) of ethyl 4-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate. This fraction was redissolved in 2-propanone and converted into the hydrochloric acid salt (1:1) with HCl/2-propanol. The precipitate was filtered off and dried, yielding 22 g (35%) of ethyl 4-[amino(hydroxyimino)methyl]-1-piperidine-carboxylate hydrochloride (intermediate 2).

reactant | Ethanol | 150 ml | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 17.25 g | Cl.NO
reactant | Ethyl 4-cyano-1-piperidinecarboxylate | 45 g | C(#N)C1CCN(CC1)C(=O)OCC | C9H14N2O2
reactant | Sodium methoxide | 44.4 g | C[O-].[Na+]
solvent | water | 48 ml | O | H2O
product | ethyl 4-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate | 25 g, 40% | NC(C1CCN(CC1)C(=O)OCC)=NO | C9H17N3O3
